US04668698
A solution containing ethyl 3-(hydroxymethyl)phenoxyacetate (2.6 g.) and carbon tetrabromide (8.3 g.) in DMF (30 ml.) was treated with a solution of triphenylphosphine (6.55 g.) in DMF (20 ml.) with stirring. The temperature was maintained below 15° C. during the addition using an ice bath. After 1 hour the mixture was poured into ice-water (300 ml.) and the aqueous mixture was extracted with ether (3×100 ml.). The combined extracts were washed with water (3×100 ml.) and saturated brine (100 ml.), dried (MgSO4) and concentrated. The resultant oil was purified by flash column chromatography, eluting with petrol (60°-80° )/ether (80:20 v/v) to give ethyl 3 (bromomethyl)phenoxyacetate (2.4 g.) as a colourless oil, NMR: 1.3 (3H,t), 4.25 (2H,q), 4.4 (2H,s), 4.6 (2H,s) and 6.7-7.4 (4H,m)ppm.

reactant | ethyl 3-(hydroxymethyl)phenoxyacetate | 2.6 g | OCC=1C=C(OCC(=O)OCC)C=CC1 | C11H14O4
reactant | carbon tetrabromide | 8.3 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 6.55 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | ethyl 3 (bromomethyl)phenoxyacetate | 2.4 g | BrCC=1C=C(OCC(=O)OCC)C=CC1 | C11H13BrO3
